US05554620
A mixture of 3-ethoxycarbonyl-3,3-dimethylpropionic acid (1 g) and 3 ml of thionyl chloride was stirred at room temperature for 20 hours. The excess thionyl chloride was removed in vacuo to afford 1.1 g of 3-ethoxycarbonyl-3,3-dimethylpropionyl chloride.

reactant | 3-ethoxycarbonyl-3,3-dimethylpropionic acid | 1 g | C(C)OC(=O)C(CC(=O)O)(C)C | C8H14O4
reactant | thionyl chloride | 3 ml | S(=O)(Cl)Cl | Cl2OS
product | 3-ethoxycarbonyl-3,3-dimethylpropionyl chloride | 1.1 g | C(C)OC(=O)C(CC(=O)Cl)(C)C | C8H13ClO3
